US07132426B2
Step 2: Preparation of 4-[1-(2-Dimethylamino-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid tert-butyl ester (Compound A100).
1-(2-Dimethylamino-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ol (66 mg, 0.200 mmol), 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (61 mg, 0.300 mmol) and triphenylphosphine (52 mg, 0.200 mmol) were dissolved in toluene (5 mL) and the mixture stirred at 0° C. for 15 min. Diisopropyl azodicarboxylate (28 μL, 0.200 mmol) was then added and the reaction kept going at rt for 16 h. The solvent was removed under reduced pressure and the crude was purified by HPLC. Compound A100 was obtained as a yellowish solid. Exact mass calculated for C24H32N6O5S 516.22, found 517.3 (MH+, 100%). 1H NMR (400 MHz CDCl3) δ (ppm): 8.50 (s, 1H); 8.22 (s, 1H); 7.42(m, 3H); 5.52 (m, 1H); 3.81 (m, 2H); 3.26 (m, 2H); 3.03 (s, 3H); 2.47 (s, 6H); 2.03 (m, 2H); 1.80 (m, 2H); 1.42 (s, 9H).

reactant | 1-(2-Dimethylamino-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-ol | 0.200 mmol, 66 mg | CN(C1=C(C=CC(=C1)S(=O)(=O)C)N1N=CC=2C1=NC=NC2O)C | C14H15N5O3S
reactant | 4-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 0.300 mmol, 61 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | triphenylphosphine | 0.200 mmol, 52 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 0.200 mmol, 28 μL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[1-(2-Dimethylamino-4-methanesulfonyl-phenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C2C(=NC=N1)N(N=C2)C2=C(C=C(C=C2)S(=O)(=O)C)N(C)C | C24H32N6O5S
